US08912188B2
To a solution of methyl 3-[(2S)-4-[(tert-butoxy)carbonyl]-2-methylpiperazin-1-yl]-2-(4-fluorophenyl)quinoxaline-6-carboxylate (260 mg, 0.54 mmol) in dichloromethane (30 mL) was added CF3COOH (2 mL). The resulting solution was stirred overnight at room temperature and then concentrated in vacuo. The residue was dissolved in methanol (15 mL), and sodium hydroxide (20 mg, 0.50 mmol) in water (1 mL) was added. The resulting solution was stirred overnight at room temperature and concentrated in vacuo. The residue was dissolved in water (3 mL), the pH adjusted to 6, and the resulting solution concentrated in vacuo. The crude product (40 mg) was purified by Prep-HPLC with the following conditions (AGILENT Pre-HPLC(MS-Directed)): Column, 1#-PrepC-001(XBridge Shield RP18 19*150 186002987 111130103113 03), N; mobile phase, WATER WITH 0.03% NH3H2O and CH3CN (10% CH3CN up to 22% in 7 min, hold 100% in 2 min, hold 10% in 2 min); Detector, UV 220 nm) to afford 2-(4-fluorophenyl)-3-[(2S)-2-methylpiperazin-1-yl]quinoxaline-6-carboxylic acid as a yellow solid (31 mg, 59%).

reactant | methyl 3-[(2S)-4-[(tert-butoxy)carbonyl]-2-methylpiperazin-1-yl]-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.54 mmol, 260 mg | C(C)(C)(C)OC(=O)N1C[C@@H](N(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F)C | C26H29FN4O4
reactant | CF3COOH | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium hydroxide | 0.50 mmol, 20 mg | [OH-].[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | water | 1 mL | O | H2O
product | 2-(4-fluorophenyl)-3-[(2S)-2-methylpiperazin-1-yl]quinoxaline-6-carboxylic acid | 31 mg, 59% | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CNCC1)C)C(=O)O | C20H19FN4O2
